US08258130B2
A solution of N-but-2-enyl-2,2,2-trifluoro-N-(2-iodo-6-trifluoromethyl-pyridin-3-yl)-acetamide (5.2 g, 11.9 mmol) in DMF (24 mL) is treated with n-Bu4NCl (3.6 g, 13.1 mmol), Pd(OAc)2 (107 mg, 0.48 mmol), and stirred at 100° C. for 1 h. H2O (10 mL) is added, and the mixture is cooled to rt and filtered through a pad of silica gel. The filtrate is extracted with EtOAc/heptane (3×50 mL) (1:1). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 5%-50% EtOAc in heptane to afford 3-ethyl-5-trifluoromethyl-1H-pyrrolo[3,2-b]pyridine (2.2 g, 86%). MS: 215 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.24 (s, NH, 1H), 7.73 (d, 1H), 7.50 (d, 1H), 7.34 (d, 1H), 2.93 (q, 2H), 1.36 (t, 3H).

reactant | N-but-2-enyl-2,2,2-trifluoro-N-(2-iodo-6-trifluoromethyl-pyridin-3-yl)-acetamide | 11.9 mmol, 5.2 g | C(C=CC)N(C(C(F)(F)F)=O)C=1C(=NC(=CC1)C(F)(F)F)I | C12H9F6IN2O
reactant | H2O | 10 mL | O | H2O
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
catalyst | n-Bu4NCl | 13.1 mmol, 3.6 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Cl-]
catalyst | Pd(OAc)2 | 0.48 mmol, 107 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-ethyl-5-trifluoromethyl-1H-pyrrolo[3,2-b]pyridine | 2.2 g, 86% | C(C)C1=CNC=2C1=NC(=CC2)C(F)(F)F | C10H9F3N2
